US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride (6 g) as a starting compound, potassium carbonate (10.1 g) and 3-benzyloxypropyl bromide (4.45 g) were reacted and treated in the same manner as in Example 199 to give 7.1 g of 4-amino-N-((1-(3-benzyloxypropyl)piperidin-4-yl)methyl)-5-chloro-2-methoxybenzamide, m.p. 82°-83° C.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | 6 g | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | potassium carbonate | 10.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-benzyloxypropyl bromide | 4.45 g | C(C1=CC=CC=C1)OCCCBr | C10H13BrO
product | 4-amino-N-((1-(3-benzyloxypropyl)piperidin-4-yl)methyl)-5-chloro-2-methoxybenzamide | 7.1 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCOCC2=CC=CC=C2)C=C1Cl)OC | C24H32ClN3O3
